US04504477
(a) Diphenylmethyl (6R,7R)-3-Bromomethyl-7-[(Z)-2-(t-butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate
(Z)-2-(t-Butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid (1.1 g) (described in Example 3 of South African Specification No. 78/1630) was added to a stirred solution of phosphorus pentachloride (0.46 g) in dichloromethane (20 ml) at -20°. The solution was kept at -15°±5° for 40 35 minutes. More phosphorus pentachloride (0.05 g) was added after 30 minutes. The solution was cooled to -20° and triethylamine (0.6 ml) was added. The solution was stirred at -20° for 5 minutes and then added to a stirred solution of diphenylmethyl (6R,7R)-7-amino-3-bromomethylceph-3-em-4-carboxylate, hydrochloride salt (1 g) in dichloromethane (20 ml) containing triethylamine (0.3 ml) at -20°. The temperature did not exceed -20° during the addition. The mixture was stirred at -20° for 10 minutes and then warmed to 22° over 45 minutes. The mixture was diluted with water (25 ml) and dichloromethane (20 ml) and shaken. The organic phase was separated and the aqueous layer was backwashed once with dichloromethane. The organic phase was washed with dilute sodium bicarbonate solution and the aqueous phase was backwashed. The combined organic solutions were washed with dilute brine, dried over sodium sulphate, and evaporated to a foam. This was triturated with diisopropyl ether, filtered, and dried in vacuo at 60° for 2 hours followed by room temperature overnight to give the title compound, (1.7 g), [α]D21 -28° (c 1.0 CHCl3); λinf. (ethanol) 239 nm, E1 cm1% 252; 260 nm, E1 cm1% 196; 265.5 nm, E1cm1% 193; 273 nm, E1 cm1% 181.

reactant | (Z)-2-(t-Butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid | 1.1 g | C(C)(C)(C)OC(=O)CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N3O5S
reactant | phosphorus pentachloride | 0.46 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus pentachloride | 0.05 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylmethyl (6R,7R)-7-amino-3-bromomethylceph-3-em-4-carboxylate, hydrochloride salt | 1 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CBr)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Diphenylmethyl (6R,7R)-3-Bromomethyl-7-[(Z)-2-(t-butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate | 1.7 g | BrCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC(=O)OC(C)(C)C)=O)=O | C51H46BrN5O7S2
